US08071584B2
(1E)-(4-Fluoro-2-nitrophenyl)ethanal semicarbazone
To a stirred solution of 1-[(E)-2-(4-fluoro-2-nitrophenyl)ethenyl]pyrrolidine (77.25 g, 0.327 mol) in warm MeOH (500 mL) was added a solution of semicarbazide HCl (38.3 g, 0.343 mol) in warm water (200 mL). The reaction mixture was stirred at room temperature for 1 h and was then cooled in ice and filtered. The solid was washed with cold 1:1 MeOH/water (2×30 mL) and dried to give 71 g (90% over two steps) of the title compound.

reactant | 1-[(E)-2-(4-fluoro-2-nitrophenyl)ethenyl]pyrrolidine | 0.327 mol, 77.25 g | FC1=CC(=C(C=C1)/C=C/N1CCCC1)[N+](=O)[O-] | C12H13FN2O2
reactant | semicarbazide HCl | 0.343 mol, 38.3 g | Cl.NNC(=O)N
solvent | MeOH | 500 mL | CO | CH4O
solvent | water | 200 mL | O | H2O
product | (1E)-(4-Fluoro-2-nitrophenyl)ethanal semicarbazone | FC1=CC(=C(C=C1)C/C=N/NC(=O)N)[N+](=O)[O-] | C9H9FN4O3
